US07326786B2
Similar procedure as described in example 31a) was used, starting from 3-fluorophenylglycine, sodium borohydride and iodine to give 3-fluoro-Phenylglycinol. LC-MS m/e 156 (MH+).

reactant | 3-fluorophenylglycine | FC=1C=C(C=CC1)NCC(=O)O | C8H8FNO2
reactant | sodium borohydride | [BH4-].[Na+]
reactant | iodine | II | I2
product | 3-fluoro-Phenylglycinol | FC=1C=C(C=CC1)NCCO | C8H10FNO
